***************************************************************												
*	Infineon	Technologies	AG									
*	GUMMEL-POON	MODEL	IN	SPICE	2G6	SYNTAX				
*	VALID	UP	TO	10	GHZ							
*	>>>	BFP740	<<<								
*	(C)	2011	Infineon	Technologies	AG							
*	Version	2.0	November	2011								
***************************************************************	
* - Please use the global SPICE parameter TEMP to set the junction
*   temperature of this device in your circuit to get correct DC 
*   simulation results. 
* - TEMP is calculated by TEMP=TA+P*(RthJS+RthSA). The junction 
*   temperature TEMP is the sum of the ambient temperature TA and 
*   the increment of temperature caused by the dissipated power 
*   P=VCE*IC (IC collector current, VCE collector-emitter voltage). 
* - RthJS is the thermal resistance between the junction and the 
*   soldering point. RthJS for this device is 380 K/W. RthSA is the 
*   thermal resistance of the PCB, from the soldering point to the 
*   ambient. For determination of RthSA please refer to Infineon's 
*   Application Note "Thermal Resistance Calculation" AN077.
* - The model has been verified in the junction temperature range
*   -25°C to +125°C.
* - TNOM=25 °C is the nominal ambient temperature.
*   Please do not change this value.
****************************************************************		
*BFP740 C B E1 E2
.SUBCKT BFP740 1 2 3 4


CBEPAR 22 33 3.614E-013
CBCPAR 22 11 8.18E-014
CCEPAR 11 33 6.508E-014
LE    33 30 1.469E-011
LB    22 20 3.086E-010
LC   11 10  8.371E-012
CBEPCK 20 30  9.996E-014
CBCPCK 20 10  5.93E-015
CCEPCK 10 30  1.663E-013
LBX    20 2 7.787E-010
LEX   30 35 8.029E-011
LCX   10 1  7.156E-010
RSUB 30 5 0.3417
RSUBNPN 55 5 578
Rpsinker 5 33 0.16
RE1 35 3 1E-03
RE2 35 4 1E-03

Q1 11 22 33 55 M_BFP740

.MODEL 	M_BFP740	NPN(										
+	IS	=	1.215E-015									
+	BF	=	715.6									
+	NF	=	1.01									
+	VAF	=	152									
+	IKF	=	0.09402									
+	ISE	=	5.583E-015									
+	NE	=	1.737									
+	BR	=	123.9		
+	NR	=	0.98		
+	VAR	=	1.65	
+	IKR	=	0.1924		
+	ISC	=	3.85E-015		
+	NC	=	1.5		
+	RB	=	5.86		
+	IRB	=	0		
+	RBM	=	1.49	
+	RE	=	0.04741		
+	RC	=	4.736	
+	XTB	=	-2.154		
+	EG	=	1.11		
+	XTI	=	2.728		
+	CJE	=	6.76E-014		
+	VJE	=	0.94		
+	MJE	=	0.2402		
+	TF	=	2.29E-012		
+	XTF	=	4.045		
+	VTF	=	2.917		
+	ITF	=	0.6446		
+	PTF	=	0.1476		
+	CJC	=	4.332E-014		
+	VJC	=	0.8009		
+	MJC	=	0.8977		
+	XCJC=	0.7031		
+	TR	=	1E-008
+	CJS	=	3.893E-013		
+	MJS	=	0.1673
+   VJS =   0.4847 		
+	FC	=	0.5		
+	KF	=	3.5E-011		
+	AF	=	1.7)
***************************************************************					
					

.ENDS BFP740
